US07572785B2
Step A: (+/−)-2,2′,4,4′-Tetrachlorobenzoin
To a mixture of 2,4-dichlorobenzaldehyde (5.0 gm, 29 mmol) in ethanol (10 mL) was added a solution of sodium cyanide (500 mg, 10 mmol) in water (5 mL). The reaction was heated to reflux (100-110° C.) for 1 hr and was then cooled, diluted with water, and extracted twice with ethyl acetate. The organic layers were washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by flash chromatography (10% methylene chloride, 10% ethyl acetate in hexanes) to afford the title compound as an oil.

reactant | 2,4-dichlorobenzaldehyde | 29 mmol, 5.0 gm | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | sodium cyanide | 10 mmol, 500 mg | [C-]#N.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | (+/−)-2,2′,4,4′-Tetrachlorobenzoin | ClC1=C(C=CC(=C1)Cl)C(=O)C(O)C1=C(C=C(C=C1)Cl)Cl | C14H8Cl4O2
